US08426411B2
To the solution of 8-cyclohexyl-1-iodo-3-((2-(trimethylsilyl)ethoxy)methyl)-3H-imidazo[1,2-a]pyrrolo[2,3-e]pyrazine (0.100 g, 0.201 mmol, prepared using GGG with 8-cyclohexyl-3H-imidazo[1,2-a]pyrrolo[2,3-e]pyrazine [WO2009152133A1], KK) in 1,4-dioxane (1 mL) was added cesium carbonate (0.131 g, 0.403 mmol), tricyclohexylphosphine (20 wt % solution in toluene, 0.045 g, 0.032 mmol), Pd2(dba)3 (0.018 g, 0.020 mmol) and trimethylborate (0.033 g, 0.262 mmol). The mixture was degassed and heated at about 85° C. for about 2 h. The catalyst was filtered off. The filtrate was concentrated and purified by RP-HPLC (Table 1, Method s) to give 8-cyclohexyl-1-methyl-3-((2-(trimethylsilyl)ethoxy)methyl)-3H-imidazo[1,2-a]pyrrolo[2,3-e]pyrazine (0.032 g, 41%) as a clear oil: LC/MS (Table 1, Method b) Rt=3.41 min; MS m/z: 385 (M+H)+.

reactant | 8-cyclohexyl-1-iodo-3-((2-(trimethylsilyl)ethoxy)methyl)-3H-imidazo[1,2-a]pyrrolo[2,3-e]pyrazine | 0.201 mmol, 0.100 g | C1(CCCCC1)C1=CN=C2N1C1=C(N=C2)N(C=C1I)COCC[Si](C)(C)C | C20H29IN4OSi
reactant | cesium carbonate | 0.403 mmol, 0.131 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | tricyclohexylphosphine | 0.032 mmol, 0.045 g | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | trimethylborate | 0.262 mmol, 0.033 g | COB(OC)OC | C3H9BO3
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.020 mmol, 0.018 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 8-cyclohexyl-1-methyl-3-((2-(trimethylsilyl)ethoxy)methyl)-3H-imidazo[1,2-a]pyrrolo[2,3-e]pyrazine | 0.032 g, 41% | C1(CCCCC1)C1=CN=C2N1C1=C(N=C2)N(C=C1C)COCC[Si](C)(C)C | C21H32N4OSi
